US06756382B2
A solution of 2-ethoxy-N-{2-[2-(ethoxymethy)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide (998 mg, 2.60 mmol) in 20 mL of CH2Cl2 was treated with 3-chloroperoxybenzoic acid (77%, 668 mg, 2.99 mmol). After stirring for 3 h, the reaction mixture was treated with 30 mL of additional CH2Cl2 and was washed with 1% Na2CO3 solution (2×50 mL), H2O and brine. The organic portion was then dried over Na2SO4 and concentrated to give 2-ethoxy-N-{2-[2-(ethoxymethy)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide (910 mg) as a light brown oil.

reactant | 2-ethoxy-N-{2-[2-(ethoxymethy)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide | 2.60 mmol, 998 mg | C(C)OCC(=O)NC(CN1C(=NC=2C=NC=3C=CC=CC3C21)COCC)(C)C | C21H28N4O3
reactant | 3-chloroperoxybenzoic acid | 2.99 mmol, 668 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-ethoxy-N-{2-[2-(ethoxymethy)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide | 910 mg | C(C)OCC(=O)NC(CN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])COCC)(C)C | C21H28N4O4
